US04460680
A mixture of 600 ml of tetrahydrofuran, 45.8 g of hydroxyethyl acrylate, and 72 g of 3-(2-chloroethylsulfonyl)propionic acid chloride was placed in a reactor, and while maintaining the temperature at 5° C. or lower by cooling by ice water, a solution containing 31.2 g of pyridine dissolved in 100 ml of tetrahydrofuran was added dropwise thereto over a period of 1.75 hours. The resulting mixture was further stirred for 2 hours at room temperature. At the end of the time, the reaction mixture was poured into 2.5 liters of ice water, and extraction was performed four times with 300 ml of chloroform. The organic layer thus extracted was dried over sodium sulfate and concentrated to provide 87 g of 2-[3-(chloroethylsulfonyl)propionyloxy]ethyl acrylate as pale yellow waxy product.

reactant | hydroxyethyl acrylate | 45.8 g | C(C=C)(=O)OCCO | C5H8O3
reactant | 3-(2-chloroethylsulfonyl)propionic acid chloride | 72 g | ClCCS(=O)(=O)CCC(=O)Cl | C5H8Cl2O3S
reactant | pyridine | 31.2 g | N1=CC=CC=C1 | C5H5N
reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 2-[3-(chloroethylsulfonyl)propionyloxy]ethyl acrylate | 87 g, Yield was 88% | C(C=C)(=O)OCCOC(CCS(=O)(=O)CCCl)=O | C10H15ClO6S
